US06951879B2
In analogy to example 3.1, 3-(4-Bromo-phenyl)-6-(3-bromo-propoxy)-benzo[d]isothiazole and Dimethylamine were converted to yield [3-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-propyl]-dimethyl-amine as white semisolid, MS: 391 (MH+, 1Br).

reactant | 3-(4-Bromo-phenyl)-6-(3-bromo-propoxy)-benzo[d]isothiazole | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCCBr | C16H13Br2NOS
reactant | Dimethylamine | CNC | C2H7N
product | [3-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-propyl]-dimethyl-amine | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCCN(C)C | C18H19BrN2OS
